US05569768
Triflic anhydride (71 mmoles, 20 g) was added at -27° C. to a solution of pyridine (74 moles, 5.9 g) in 150 ml methylene chloride with vigorous stirring. The solution was warmed to room temperature. Benzyl 2-hydroxyhexanoic acid (57 moles, 12.65 g) in 15 ml methylene chloride was added over 2 minutes. The solution was stirred for 1 hour and filtered. The filtrate was concentrated, filtered through silica gel eluted with hexane, and evaporated to yield 17.0 g of benzyl 2-(trifluoromethanesulfonylhydroxy)hexanoic acid. (MS)

reactant | Triflic anhydride | 71 mmoles, 20 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 74 moles, 5.9 g | N1=CC=CC=C1 | C5H5N
reactant | Benzyl 2-hydroxyhexanoic acid | 57 moles, 12.65 g | C(C1=CC=CC=C1)C(C(=O)O)(CCCC)O | C13H18O3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2-(trifluoromethanesulfonylhydroxy)hexanoic acid | 17.0 g | C(C1=CC=CC=C1)C(C(=O)O)(CCCC)OS(=O)(=O)C(F)(F)F | C14H17F3O5S
